US05236952
A solution of 0.79 ml of 65 percent nitric acid in 25 ml of glacial acetic acid is added dropwise to a solution of 2.2 g of 4'-hydroxy-3'-methoxy-4-phenylbutyrophenone in 25 ml of glacial acetic acid and the mixture is stirred at room temperature for an additional 2 hours. The mixture is poured into 150 ml of ice-water and, after treatment with 20 ml of 3N hydrochloric acid, extracted three times with 75 ml of ethyl acetate each time. The organic phase is washed with water, dried over sodium sulfate and evaporated. The crude product obtained is taken up in ethyl acetate and filtered over 75 g of silica gel. After recrystallization from acetonitrile, there is obtained 4'-hydroxy-3'-methoxy-5'-nitro-4-phenylbutyrophenone in the form of yellow crystals of m.p. 120°-121°.

reactant | nitric acid | 0.79 ml | [N+](=O)(O)[O-] | HNO3
reactant | 4'-hydroxy-3'-methoxy-4-phenylbutyrophenone | 2.2 g | OC1=C(C=C(C=C1)C(CCCC1=CC=CC=C1)=O)OC | C17H18O3
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4'-hydroxy-3'-methoxy-5'-nitro-4-phenylbutyrophenone | OC1=C(C=C(C=C1[N+](=O)[O-])C(CCCC1=CC=CC=C1)=O)OC | C17H17NO5
